US09193741B2
Synthesis of 2-(3-(4-fluorophenyl)propyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidin-5-amine
This compound was synthesized from tert-butyl 4-(2,5-diamino-6-mercaptopyrimidin-4-yl)piperazine-1-carboxylate using 4-(4-fluorophenyl)butanoic acid, yielding the title compound in 48% yield.

reactant | tert-butyl 4-(2,5-diamino-6-mercaptopyrimidin-4-yl)piperazine-1-carboxylate | NC1=NC(=C(C(=N1)N1CCN(CC1)C(=O)OC(C)(C)C)N)S | C13H22N6O2S
reactant | 4-(4-fluorophenyl)butanoic acid | FC1=CC=C(C=C1)CCCC(=O)O | C10H11FO2
product | 2-(3-(4-fluorophenyl)propyl)-7-(piperazin-1-yl)thiazolo[5,4-d]pyrimidin-5-amine | 48% yield | FC1=CC=C(C=C1)CCCC=1SC=2N=C(N=C(C2N1)N1CCNCC1)N | C18H21FN6S
